US09302991B2
<Step-4>:(R)-2-methyl-N-(1-(4-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)propane-2-sulfinamide (single diastereomer)
The title compound is prepared in 35% yield (60 mg, colorless oil) from 1-(4-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethanone (120 mg, 0.53 mmol, Step-3) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(4-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethanone | 0.53 mmol, 120 mg | FC(COC1=CC(=NC=C1)C(C)=O)(F)F | C9H8F3NO2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)-2-methyl-N-(1-(4-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)propane-2-sulfinamide | 35% yield | CC(C)(C)[S@@](=O)NC(C)C1=NC=CC(=C1)OCC(F)(F)F | C13H19F3N2O2S
